US05912244
4-Bromophenol (259 g) and 4-dimethylaminopyridine (1.5 g) were dissolved in dichloromethane (1000 ml), the solution was cooled in an ice bath and triethylamine (219 ml) was added portionwise such that the reaction temperature was kept below 20° C. Propionyl chloride (137 ml) was then added over 1 hour and the resulting mixture was stirred at room temperature for 2 hours. The mixture was washed with water followed by brine, then dried (anhydrous magnesium sulphate) and the solvent removed under reduced pressure to yield 4-bromophenyl propionate (344 g) as a green oil.

reactant | 4-Bromophenol | 259 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | triethylamine | 219 ml | C(C)N(CC)CC | C6H15N
reactant | Propionyl chloride | 137 ml | C(CC)(=O)Cl | C3H5ClO
catalyst | 4-dimethylaminopyridine | 1.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | 4-bromophenyl propionate | 344 g | C(CC)(=O)OC1=CC=C(C=C1)Br | C9H9BrO2
